US05026855
2,2,8-trimethyl-5-(4-chloro-α-acetoxybenzyl)-pyrido-[4,3-e]-1,3-dioxane
210 mg (0.66 mmoles) of (+)-2,2,8-trimethyl-5-(4-chloro-α-hydroxybenzyl)-pyrido-[4,3-e]-1,3-dioxane are poured into a 2 ml vial and dissolved in 500 μl of pyridine and 110 μl of acetic anhydride (1.16 mmole). The reaction mixture is stirred for 18 hours, then poured into 30 ml of saturated NaHCO3. The mixture is allowed to stir at room temperature for 1 hour, then extracted with 3×30 ml of CH2Cl2. The combined CH2Cl2 layers are washed with 3×20 ml of 2N HCl. The organic phase is dried over Na2SO4, filtered and the filtrate is evaporated to dryness. 24 g are obtained as a white solid with a yield of 100%.

reactant | (+)-2,2,8-trimethyl-5-(4-chloro-α-hydroxybenzyl)-pyrido-[4,3-e]-1,3-dioxane | 0.66 mmoles, 210 mg | CC1(OC2=C(CO1)C(=CN=C2C)C(C2=CC=C(C=C2)Cl)O)C | C17H18ClNO3
reactant | acetic anhydride | 1.16 mmole, 110 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaHCO3 | 30 ml | C(=O)(O)[O-].[Na+]
solvent | pyridine | 500 μl | N1=CC=CC=C1 | C5H5N
product | 2,2,8-trimethyl-5-(4-chloro-α-acetoxybenzyl)-pyrido-[4,3-e]-1,3-dioxane | yield of 100% | CC1(OC2=C(CO1)C(=CN=C2C)C(C2=CC=C(C=C2)Cl)OC(C)=O)C | C19H20ClNO4
